US04098888
To a solution of 3.54 g of 2-chloroacetamidothiazol-4-yl N-chloroacetylglycine ethyl ester in 30 ml of ethanol is added dropwise a solution of 1.68 g of potassium hydroxide in 15 ml of water under ice-cooling, followed by the stirring for 15 minutes. Ethanol is distilled under reduced pressure and the residue is made acidic with 10% hydrochloric acid, followed by the extraction with ethyl acetate. The ethyl acetate layer is washed with water and dried. The distillation of ethyl acetate gives 2.38 g of 2-chloroacetamidothiazol-4-yl N-chloroacetylglycine as colorless crystals. Melting point: 184°-186° C.

reactant | 2-chloroacetamidothiazol-4-yl N-chloroacetylglycine ethyl ester | 3.54 g | C(C)OC(C(N(C(CCl)=O)C=1N=CSC1)NC(CCl)=O)=O | C11H13Cl2N3O4S
reactant | potassium hydroxide | 1.68 g | [OH-].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 2-chloroacetamidothiazol-4-yl N-chloroacetylglycine | 2.38 g | ClCC(=O)NC(N(C(CCl)=O)C=1N=CSC1)C(=O)O | C9H9Cl2N3O4S
